US07767650B2
c. Synthesis of 4-{3-Hydroxy-3-[4-(2-ethoxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl]-prop-1-ynyl}benzoic acid
5.4 g (15 mmol) of 1-[5,5,8,8-tetramethyl-4-(2-ethoxyethoxy)-5,6,7,8-tetrahydronaphth-2-yl]prop-2-yn-1-ol and 2.6 g (11 mmol) of 4-iodobenzoic acid are dissolved in 125 mL of DMF and 50 mL of triethylamine. 110 mg of copper iodide and 210 mg of dichloropalladiumbis(triphenylphosphine) are added, and the reaction medium is stirred at 50° C. for 2 hours 30 minutes. The reaction medium is poured into ammonium chloride solution and extracted with ethyl acetate. The residue is purified on a column of silica (eluent: 6/4 heptane/EtOAc). The desired product is obtained in the form of yellowish crystals (m=2.5 g; yield=50%; m.p.=158° C.) 1H NMR (DMSO D6): 1.12 (t, J=7.0 Hz, 3H); 1.23 (s, 6H); 1.35 (s, 6H); 1.56-1.60 (m, 4H); 3.50 (q, J=7.0 Hz, 2H); 3.75 (m, 2H); 4.06 (m, 2H); 5.52 (d, J=5.0 Hz, 1H); 6.09 (d, J=4.9 Hz, 1H); 6.90 (s, 1H); 7.11 (s, 1H); 7.54 (d, J=8.3 Hz, 2H); 7.93 (d, J=8.3 Hz, 2H), 13.1 (bs, 1H).

reactant | 1-[5,5,8,8-tetramethyl-4-(2-ethoxyethoxy)-5,6,7,8-tetrahydronaphth-2-yl]prop-2-yn-1-ol | 15 mmol, 5.4 g | CC1(C=2C(=CC(=CC2C(CC1)(C)C)C(C#C)O)OCCOCC)C | C21H30O3
reactant | 4-iodobenzoic acid | 11 mmol, 2.6 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 125 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 50 mL | C(C)N(CC)CC | C6H15N
catalyst | copper iodide | 110 mg | [Cu](I)I
product | 4-{3-Hydroxy-3-[4-(2-ethoxyethoxy)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphth-2-yl]-prop-1-ynyl}benzoic acid | yield=50% | OC(C#CC1=CC=C(C(=O)O)C=C1)C1=CC=2C(CCC(C2C(=C1)OCCOCC)(C)C)(C)C | C28H34O5
